US07435815B2
N-Benzyl-N-cyanomethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with benzylamino-acetonitrile

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | benzylamino-acetonitrile | C(C1=CC=CC=C1)NCC#N | C9H10N2
product | N-Benzyl-N-cyanomethyl-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CC#N | C25H25N3O4S
